US08748624B2
STEP A: 2-chloro-6-(methoxymethoxy)-4-(trifluoromethyl)benzaldehyde
A 1.6M LDA solution (12.6 mL, 20.1 mmol) was added to a −78° C. THF solution (50 mL) of 1-chloro-3-(methoxymethoxy)-5-(trifluoromethyl)benzene (from above). After 30 min neat DMF (3.9 mL, 50.0 mmol) was added, and the resulting solution was allowed to warm to 0° C. gradually, quenched with NH4Cl solution, and extracted with diethyl ether. The combined extracts were dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | LDA | 20.1 mmol, 1.6M, 12.6 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-chloro-3-(methoxymethoxy)-5-(trifluoromethyl)benzene | ClC1=CC(=CC(=C1)C(F)(F)F)OCOC | C9H8ClF3O2
reactant | DMF | 50.0 mmol, 3.9 mL | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-chloro-6-(methoxymethoxy)-4-(trifluoromethyl)benzaldehyde | ClC1=C(C=O)C(=CC(=C1)C(F)(F)F)OCOC | C10H8ClF3O3
